US07829572B2
Preparation of 3-(1-(3,4-difluorophenyl)propan-2-yl)-2-(3-hydroxypyridin-2-yl)-5-(trifluoromethyl)pyrido[4,3-d]pyrimidin-4(3H)-one
3-(1-(3,4-difluorophenyl)propan-2-yl)-2-(3-hydroxypyridin-2-yl)-5-(trifluoromethyl)-2,3-dihydropyrido[4,3-d]pyrimidin-4(1H)-one (27.3 g, 58.8 mmol) was dissolved in 4-methyl-2-pentanone (500 mL). To this was added manganese dioxide (76.7 g, 882 mmol) and the mixture was heated to 90° C. for 1 hour. The reaction mixture was cooled and filtered through celite. The filter cake was washed with ethyl acetate. Combined filtrates were concentrated in vacuo to a pale yellow solid (8.35 g). The solid was slurried in hexanes and the resultant colorless solid was collected. The filtrate was concentrated and purified by silica gel column chromatography using 20-30% acetone/hexanes as eluant to yield additional product (3.47 g, 43.5% total yield).

reactant | 3-(1-(3,4-difluorophenyl)propan-2-yl)-2-(3-hydroxypyridin-2-yl)-5-(trifluoromethyl)-2,3-dihydropyrido[4,3-d]pyrimidin-4(1H)-one | 58.8 mmol, 27.3 g | FC=1C=C(C=CC1F)CC(C)N1C(NC2=C(C1=O)C(=NC=C2)C(F)(F)F)C2=NC=CC=C2O | C22H17F5N4O2
solvent | 4-methyl-2-pentanone | 500 mL | CC(CC(C)=O)C | C6H12O
catalyst | manganese dioxide | 882 mmol, 76.7 g | [O-2].[O-2].[Mn+4]
product | 3-(1-(3,4-difluorophenyl)propan-2-yl)-2-(3-hydroxypyridin-2-yl)-5-(trifluoromethyl)pyrido[4,3-d]pyrimidin-4(3H)-one | FC=1C=C(C=CC1F)CC(C)N1C(=NC2=C(C1=O)C(=NC=C2)C(F)(F)F)C2=NC=CC=C2O | C22H15F5N4O2
